US04681929
Two-Step Bottle Immersion Extraction Using Acetone-Acetone/Pentane Azeotrope
The previous examples (V and VI) show that 2-step immersion extraction using acetone, then acetone/pentane azeotrope is a viable method for extraction of resin and rubber from guayule shrub. Expression of bagasse or multiple rinses may be used to increase the yield or efficiency of either step.

reactant | acetone | CC(=O)C | C3H6O
reactant | acetone pentane | CC(=O)C.CCCCC
product | Acetone Acetone Pentane | CC(=O)C.CC(=O)C.CCCCC | InChI=1S/C5H12.2C3H6O/c1-3-5-4-2;2*1-3(2)4/h3-5H2,1-2H3;2*1-2H3
